US09145380B2
b) 8-(Methylsulfamoyl)dibenzo[b,d]thiophene-2-sulfonyl chloride
N-Methyldibenzo[b,d]thiophene-2-sulfonamide (1.56 g) was added to chlorosulfonic acid (3.27 g) and the mixture was stirred at RT for 5 h. The mixture was then treated with ice cold water, the precipitate was filtered off, washed with cold water and dried to give the title compound (1.6 g, 76%).

reactant | N-Methyldibenzo[b,d]thiophene-2-sulfonamide | 1.56 g | CNS(=O)(=O)C1=CC2=C(SC3=C2C=CC=C3)C=C1 | C13H11NO2S2
reactant | chlorosulfonic acid | 3.27 g | ClS(=O)(=O)O | ClHO3S
product | 8-(Methylsulfamoyl)dibenzo[b,d]thiophene-2-sulfonyl chloride | 1.6 g, 76% | CNS(=O)(=O)C=1C=CC2=C(C3=C(S2)C=CC(=C3)S(=O)(=O)Cl)C1 | C13H10ClNO4S3
